Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Exertional chest pain
 
Major Surgical or Invasive Procedure:
___ Four Vessel Coronary Artery Bypass Grafting(LIMA to LAD, 
SVG to OM, SVG to PDA, SVG to PLV)
 
History of Present Illness:
Mr. ___ is a ___ year old male with known history of coronary 
artery disease who had complaints of exertional chest pain for 
the last several months. The chest pain radiated to his left arm 
with severe exertion and was relieved with rest. Following an 
abnormal stress test, he underwent cardiac catheterization at 
___ which revealed severe three vessel coronary 
artery disease. LV gram was notable for inferior hypokinesis and 
a LVEF of 45%. Based upon the above results, he was transferred 
to the ___ for further evaluation and treatment.
 
Past Medical History:
Coronary Artery Disease - 
stenting to LAD and Diagonal in ___
Hypertension
Hyperlipidemia
Chronic Lower Back Pain

 
Social History:
___
Family History:
Father died of an MI at age ___.
 
Physical Exam:
 
Pertinent Results:
___ ECHO: The left atrium is mildly dilated. The right 
atrium is moderately dilated. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Right ventricular chamber size and free wall motion 
are normal. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve leaflets 
are mildly thickened. Trivial mitral regurgitation is seen. 
There is no pericardial effusion. 
___ Carotid Ultrasound: No significant plaque or stenosis 
seen bilaterally. Essentially, normal carotid bifurcation exam 
for age. 

 
Brief Hospital Course:
Mr. ___ was admitted to the cardiac surgical service and 
underwent routine preoperative evaluation. Workup was 
essentially unremarkable and he was cleared for surgery. He 
remained pain free on medical therapy. On ___, Dr. 
___ coronary artery bypass grafting surgery. For 
surgical details, please see seperate dictated operative note. 
Following the operation, he was hemodynamically stable on no 
pressors. He was brought to the CVICU for invasive monitoring. 
Within 24 hours, he awoke neurologically intact and was 
extubated without incident. Low dose beta blockade was resumed. 
He maintained good hemodynamics and transferred to the SDU on 
postoperative day one.  The patient made excellent progress on 
the floor.  By POD 3 chest tubes and pacing wires h ad been 
discontinued, the patient was ambulating freely, the wound was 
healing, and pain was controlled by analgesics.  He was 
discharged to home in good condition on POD **********
 
Medications on Admission:
Aspirin 81 qd, Lipitor 10 qd, Toprol XL 100 qd, Fish Oil, MV
 
Discharge Medications:
1. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO once a day for 7 days.
Disp:*7 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 1 months.
Disp:*60 Capsule(s)* Refills:*0*
3. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO twice a 
day for 1 months.
Disp:*60 Tablet(s)* Refills:*0*
4. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
6. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
9. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
10. Toprol XL 100 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*0*
11. Furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day 
for 7 days.
Disp:*7 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease 
s/p coronary artery bypass grafts
s/p coronary angioplasty and stenting ___
Hypertension
Hyperlipidemia
Chronic Lower Back Pain

 
Discharge Condition:
Good

 
Discharge Instructions:
Shower daily, no baths or swimming 
no ointments, lotions and creams or powders to incisions.
No lifting more than 10 lbs for 10 weeks from the surgical date
No driving for one month from surgical date.
report any fever more than 100.5, or redness or discharge from 
wounds
report any weight gain greater than 2 pounds in a day or 5 
pounds in a week
take all medications as directed
 
Followup Instructions:
___